US09284271B2
N-(2-(5-chloro-1H-indol-3-yl)ethyl)-4-iodobenzamide was prepared according to method C with triethylamine (2.23 mL; 15.90 mmol), 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride (1.5 g; 6.36 mmol) and 4-iodobenzoyl chloride (1.82 g; 6.68 mmol) in dichloromethane (75 mL). The mixture was stirred for 20 minutes at room temperature and was evaporated under reduced pressure. The crude material was purified by flash chromatography on silica gel (eluent 2 to 20% ethyl acetate in dichloromethane) to provide 1.22 g (45%) of N-(2-(5-chloro-1H-indol-3-yl)ethyl)-4-iodobenzamide as a white solid.

reactant | triethylamine | 15.90 mmol, 2.23 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride | 6.36 mmol, 1.5 g | Cl.ClC=1C=C2C(=CNC2=CC1)CCN
reactant | 4-iodobenzoyl chloride | 6.68 mmol, 1.82 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-(2-(5-chloro-1H-indol-3-yl)ethyl)-4-iodobenzamide | 1.22 g, 45% | ClC=1C=C2C(=CNC2=CC1)CCNC(C1=CC=C(C=C1)I)=O | C17H14ClIN2O
